US06458772B1
a) 4-(N-CBz-L-valyloxy) butyric acid t-butyl ester
N-CBz-L-valine (16.25 g, 65 mmole) was dissolved in DMF (40 ml). To the solution was added potassium t-butoxide (7.24 g, 65 mmole). After 10 min, 4-bromobutyric acid t-butyl ester (12 g, 53 mmole) was added. The reaction mixture was kept at 65° C. for 2.5 hr and then poured into sodium bicarbonate aqueous solution and extracted with dichloromethane. The organic phase was dried and the product was isolated with silica gel column chromatography. 20.1 g.

reactant | N-CBz-L-valine | 65 mmole, 16.25 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | potassium t-butoxide | 65 mmole, 7.24 g | CC(C)([O-])C.[K+]
reactant | 4-bromobutyric acid t-butyl ester | 53 mmole, 12 g | C(C)(C)(C)OC(CCCBr)=O | C8H15BrO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 4-(N-CBz-L-valyloxy) butyric acid t-butyl ester | C(C)(C)(C)OC(CCCOC([C@@H](NC(=O)OCC1=CC=CC=C1)C(C)C)=O)=O | C21H31NO6
